US06686497B1
Under an atmosphere of nitrogen, n-butyllithium (25 ml, 15% w/w solution in hexane) was added to a solution of diisopropylamine (3.6 g) in tetrahydrofuran (30 ml) at −30° C. The mixture was stirred at −30° C. for 30 minutes, cooled to −75° C., and hexamethylphosphoramide (HMPA, 10 g) was added slowly. A solution of ethyl 2-ethoxy-4-methylbenzoate (5 g) in tetrahydrofuran (10 ml) was then added at −75° C. and the mixture was stirred for two hours. Carbon dioxide gas was then purged into the reaction mixture at −75° C. till complete decolorization. The reaction mixture was then stirred at −75 to −70° C. for 30 minutes and then brought to 10° C., diluted with water (50 ml), and extracted with ether. The aqueous layer was acidified with 10% aqueous sulphuric acid to pH ˜2 and extracted with dichloromethane. The combined dichloromethane layer was washed with water and concentrated in vacuo. The oily product so obtained was re-dissolved in ether (50 ml) and washed with water. The ethereal layer was then concentrated in vacuo to afford a thick oil which solidified on keeping at room temperature to afford 3-ethoxy-4-(ethoxycarbonyl)phenyl acetic acid 4.4 g (72.7%).

reactant | n-butyllithium | 25 ml | C(CCC)[Li]
reactant | diisopropylamine | 3.6 g | C(C)(C)NC(C)C | C6H15N
reactant | hexamethylphosphoramide | 10 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | ethyl 2-ethoxy-4-methylbenzoate | 5 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)C | C12H16O3
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-ethoxy-4-(ethoxycarbonyl)phenyl acetic acid | 4.4 g, 72.7% | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
